US09145407B2
N-(2,4-Dimethoxybenzyl)-4-fluoro-5-iodo-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
The title compound was prepared according to Preparation 6 using (2,4-dimethoxy-benzyl)[1,2,4]thiadiazol-5-yl-amine/N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine and 4-fluoro-5-iodobenzenesulfonyl chloride (Preparation 36).

reactant | (2,4-dimethoxy-benzyl)[1,2,4]thiadiazol-5-yl-amine N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine | COC1=C(CNC2=NC=NS2)C=CC(=C1)OC.COC1=C(CNC2=NC=NS2)C=CC(=C1)OC | 2C11H13N3O2S
reactant | 4-fluoro-5-iodobenzenesulfonyl chloride | FC1=CC=C(C=C1I)S(=O)(=O)Cl | C6H3ClFIO2S
product | N-(2,4-Dimethoxybenzyl)-4-fluoro-5-iodo-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | COC1=C(CN(S(=O)(=O)C2=CC=C(C(=C2)I)F)C2=NC=NS2)C=CC(=C1)OC | C17H15FIN3O4S2
